US08217032B2
[6-Methoxy-2-(2,3,4-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Charge a flask with trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (2.13 g, 4.0 mmol), 2,3,4-trifluorophenyl boronic acid (1.0 g, 5.7 mmol), trans-dichlorobis(triphenylphosphine)palladium II, (561 mg, 0.8 mmol) and cesium fluoride (5.5 g, 36 mmol) and add 50 mL of acetonitrile. Heat the mixture at 80° C. for 4 hours. Cool and filter the mixture and purify on an SOX column, eluting with 2N ammonia/ethanol. Purify further on a silica column eluting with 2% 2N ammonia/methanol/methylene chloride to give 880 mg (43%) of the title compound: 1H-NMR (CD3OD, 400 MHz) δ 7.93 (d, J=8.8 Hz, 1H); 7.50 (d, J=8.4 Hz, 3H); 7.39 (d, J=8.8 Hz, 1H); 7.35 (d, J=2.4 Hz, 1H); 7.07 (dd, J=9.2, 2.8 Hz, 1H); 6.96-6.87 (m, 2H); 6.80 (d, J=9.6 Hz, 2H); 4.10-4.07 (t, 2H); 3.91 (s, 3H); 2.72-2.69 (t, 2H); 2.48-2.48 (m, 4H); 1.61-1.55 (m, 4H); 1.46-1.43 (m, 2H).

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 4.0 mmol, 2.13 g | COC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C26H26F3NO6S
reactant | 2,3,4-trifluorophenyl boronic acid | 5.7 mmol, 1.0 g | FC1=C(C=CC(=C1F)F)B(O)O | C6H4BF3O2
reactant | cesium fluoride | 36 mmol, 5.5 g | [F-].[Cs+]
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.8 mmol, 561 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | [6-Methoxy-2-(2,3,4-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 880 mg, 43% | COC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C(=C(C=C1)F)F)F | C31H28F3NO3
